US09301951B2
1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oic acid
To a mixture of tert-butyl 1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate (1.17 g) in DCM (20 mL) was added TFA (20 mL). The mixture was stirred for 1 hour, concentrated and lyophilized to give a think brown syrup. MS (ES, m/z): 808.3 [M+H]+.

reactant | tert-butyl 1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | 1.17 g | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)C(N(CCOCCOCCOCCC(=O)OC(C)(C)C)C)=O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C46H56F3N5O8
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)phenyl)-2-methyl-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oic acid | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C=CC1)C(N(CCOCCOCCOCCC(=O)O)C)=O)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C42H48F3N5O8
